US07723371B2
This Example Illustrates the Preparation of 1-(2-cyclopropyl-1-isocyanocyclobutane-sulfonyl)-4-methylbenzene (an Intermediate Compound of the Formula (VII))
In a sulfonation flask 11.1 g (0.28 mol) sodium hydride was suspended in a mixture of 80 ml diethylether and 220 ml DMSO. Then a solution of 19.9 g (0.1 mol) TosMIC and 28.2 g (0.115 mol) (1.3-dibromopropyl)cyclopropane in 30 ml diethylether and 80 ml DMSO was added in 90 minutes. After stirring for 1.5 hours, 70 ml of water was added slowly under ice cooling. The first crop of product was filtered off (16.3 g) and the mother liquor evaporated. The raw material obtained from the mother liquor was then purified by flash chromatography over silicagel (eluent: hexane/ethylacetate 2:1). Overall yield: 19.0 g (68% of theory) of 1-(2-cyclopropyl-1-isocyanocyclobutanesulfonyl)-4-methylbenzene in the form of a solid.

reactant | sodium hydride | 0.28 mol, 11.1 g | [H-].[Na+]
reactant | TosMIC | 0.1 mol, 19.9 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | (1.3-dibromopropyl)cyclopropane | 0.115 mol, 28.2 g | BrC(CCBr)C1CC1 | C6H10Br2
reactant | water | 70 ml | O | H2O
solvent | diethylether | 80 ml | C(C)OCC | C4H10O
solvent | DMSO | 220 ml | CS(=O)C | C2H6OS
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
solvent | DMSO | 80 ml | CS(=O)C | C2H6OS
product | 1-(2-cyclopropyl-1-isocyanocyclobutane-sulfonyl)-4-methylbenzene | C1(CC1)C1C(CC1)(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-] | C15H17NO2S
